US09163021B2
(2-Cyclopropyl-1,3-oxazol-4-yl)acetic acid
Lithium hydroxide monohydrate (7.83 g, 186.7 mmol) was added to ethyl (2-cyclopropyl-1,3-oxazol-4-yl)acetate (Preparation 91, 7.00 g, 35.9 mmol) in THF (200 mL) and water (100 mL). The mixture was stirred at room temperature for 2 hours then the reaction mixture volume was reduced to one third by evaporation in vacuo. The aqueous residue was acidified using aqueous 1M HCl then extracted with EtOAc (200 mL). The organic phase was evaporated in vacuo and the crude material was triturated with diethyl ether (100 mL) to afford the title compound as a white solid (66%, 4.00 g).

reactant | Lithium hydroxide monohydrate | 186.7 mmol, 7.83 g | O.[OH-].[Li+]
reactant | ethyl (2-cyclopropyl-1,3-oxazol-4-yl)acetate | 35.9 mmol, 7.00 g | C1(CC1)C=1OC=C(N1)CC(=O)OCC | C10H13NO3
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | (2-Cyclopropyl-1,3-oxazol-4-yl)acetic acid | 4.00 g, 66% | C1(CC1)C=1OC=C(N1)CC(=O)O | C8H9NO3
